US07977358B2
C] 5-Cyclopropyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 160C], 5-cyclopropyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1H-pyrazole-4-carboxylic acid ethyl ester and 3-(trifluoromethoxy)benzeneboronic acid gave the title compound as a white solid (54%). MS: 500.0 (MH+).

reactant | 5-cyclopropyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1C1CC1)CN1C(C2=CC=CC=C2C1=O)=O | C18H17N3O4
reactant | 3-(trifluoromethoxy)benzeneboronic acid | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
product | 5-Cyclopropyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 54% | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)OC(F)(F)F)CN1C(C2=CC=CC=C2C1=O)=O | C25H20F3N3O5
